US09085555B2
(2S,4R)-1-[2-(3-Acetyl-6-hydroxymethyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
To a solution of (2S,4R)-1-[2-(3-acetyl-6-triisopropylsilanyloxymethyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide (50.0 mg, 0.057 mmol) in THF (5 mL), cooled to at 0° C., was added TBAF (1M in THF, 0.057 mL, 0.057 mmol), and stirring was continued for 3 h. The reaction was quenched with saturated aqueous NaHCO3 followed by addition of EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organics were washed with water (1×) and brine, dried (phase separator) and concentrated in vacuo. Purification by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 20% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) afforded after lyophilization of the purified fractions the title compound as a white solid. MS (LC/MS): 504 [M+H]+; tR (HPLC conditions k): 3.10 min.

reactant | (2S,4R)-1-[2-(3-acetyl-6-triisopropylsilanyloxymethyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | 0.057 mmol, 50.0 mg | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)CO[Si](C(C)C)(C(C)C)C(C)C)C(C)=O)=O)C=CC1)F | C34H44ClF2N3O4Si
reactant | TBAF | 0.057 mmol, 1M, 0.057 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S,4R)-1-[2-(3-Acetyl-6-hydroxymethyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)CO)C(C)=O)=O)C=CC1)F | C25H24ClF2N3O4
